US05628048
There are two means for passing from the uranyl nitrate in solution to the oxide UO3. A first means consists of adding ammonia in order to obtain by precipitation ammonium diuranate (ADU), which is thermally decomposed into UO3. A second means consists of thermally decomposing the uranyl nitrate after dehydration.

reactant | uranyl nitrate | [N+](=O)([O-])[O-].[U+2](=O)=O.[N+](=O)([O-])[O-]
reactant | ammonia | N | H3N
product | ammonium diuranate | [NH4+].[NH4+].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[U].[U] | InChI=1S/2H3N.7O.2U/h2*1H3;;;;;;;;;/q;;7*-2;;/p+2
